US05411841
Preparation of 4-Acetamido-benzenesulphinic acid
To 4-acetamidobenzenesulphonyl chloride (400 g, 1.72 moles) was added with stirring a solution of sodium sulphite (431.7 g, 3.42 moles) in water (2 liters). A solution of 50% sodium hydroxide (240 ml) was added dropwise over 35 minutes using a cooling bath to keep the temperature below 30° C. The pH was thus maintained in the range 6.5-7.0. The mixture was stirred at room temperature for 2 hours and acidified by adding conc. sulphuric acid (170 ml) with ice-bath cooling. The precipitated white solid was filtered off, washed with water and dried at 50° C. The yield was 324.2 g (94%). This was used in the next stage without further purification.

reactant | 4-acetamidobenzenesulphonyl chloride | 1.72 moles, 400 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | sodium sulphite | 3.42 moles, 431.7 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | 240 ml | [OH-].[Na+]
reactant | sulphuric acid | 170 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 2 liters | O | H2O
product | 4-Acetamido-benzenesulphinic acid | C(C)(=O)NC1=CC=C(C=C1)S(=O)O | C8H9NO3S
